US04622318
To a suspension of phosphorus pentachloride-pyridine complex (prepared from phosphorus pentachloride (1.31 g) and pyridine (0.508 ml)) in methylene chloride was added p-nitrobenzyl 7-(2-phenylacetamido)-3-vinylthiomethyl-3-cephem-4-carboxylate (1.10 g) at -20° C. The mixture was stirred for 20 minutes under ice-cooling and poured into methanol (20 ml), and then an aqueous solution of sodium bicarbonate (2.1 g) was added thereto. The organic layer was separated at pH 4, washed with water, an aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride successively and dried over magnesium sulfate. The inorganic material was filtered off, and to the filtrate was added bis(trimethylsilyl)urea (5.93 g). The mixture was stirred at 30° C. for 15 minutes to give a solution of the silylated 7-aminocephalosporanic acid derivative. On the other hand, phosphorus oxychloride (0.442 g) was added to a solution of N,N-dimethylformamide (0.207 ml) in ethyl acetate (0.65 ml) under ice-cooling. The mixture was stirred at the same temperature for 30 minutes. To the mixture were added 2-(p-nitrobenzyloxycarbonylmethoxyimino)-2-[2-(2,2,2-trifluoroacetamido)thiazol-4-yl]acetic acid (syn isomer) (1.14 g), methylene chloride (55 ml) and tetrahydrofuran (2 ml) at the same temperature and the mixture was stirred for 30 minutes to give an activated acid solution. This solution was added to the solution of the silylated 7-aminocephalosporanic acid derivative at -20° C. The mixture was stirred at -20°~-10° C. for 30 minutes, poured into ice-water and adjusted to pH 7 with an aqueous solution of sodium bicarbonate. The organic layer was separated, washed with a diluted aqueous solution of sodium bicarbonate, water and a saturated aqueous solution of sodium chloride in turn, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by silica gel (25 g) column chromatography using a mixture of chloroform and methanol (50:1) as an eluent to give p-nitrobenzyl 7-[2-(p-nitrobenzyloxycarbonylmethoxyimino)-2-{2-(2,2,2-trifluoroacetamido)thiazol-4-yl}acetamido]-3-vinylthiomethyl-3-cephem-4-carboxylate (syn isomer) (1.23 g).

reactant | phosphorus oxychloride | 0.442 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(p-nitrobenzyloxycarbonylmethoxyimino)-2-[2-(2,2,2-trifluoroacetamido)thiazol-4-yl]acetic acid | 1.14 g | [N+](=O)([O-])C1=CC=C(COC(=O)CON=C(C(=O)O)C=2N=C(SC2)NC(C(F)(F)F)=O)C=C1 | C16H11F3N4O8S
reactant | 7-aminocephalosporanic acid | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 0.65 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 55 ml | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 0.207 ml | CN(C=O)C | C3H7NO
product | p-nitrobenzyl 7-[2-(p-nitrobenzyloxycarbonylmethoxyimino)-2-{2-(2,2,2-trifluoroacetamido)thiazol-4-yl}acetamido]-3-vinylthiomethyl-3-cephem-4-carboxylate | 1.23 g | [N+](=O)([O-])C1=CC=C(COC(=O)CON=C(C(=O)NC2[C@@H]3N(C(=C(CS3)CSC=C)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C2=O)C=2N=C(SC2)NC(C(F)(F)F)=O)C=C1 | C33H26F3N7O12S3
